US07411068B2
Dipotassium 2,3,3-trimethyl-3H-4,7-indoledisulfonate (1k)
To a three-necked flask equipped with mechanical stirrer and a reflux condenser were added 50 ml of acetic acid, 15 ml (140 mmol) of 3-methyl-2-butanone, 16.2 g (60 mmol) of 2-hydrazino-1,4-benzenedisulfonic acid and 13 g (133 mmol) of potassium acetate. The mixture was heated to reflux for 8 h and then cooled to room temperature. The brownish precipitate was filtered off and washed with acetic acid and acetonitrile. Yield: 13.8 g (58%) of the raw product (1k). 1H-NMR (200 MHz, DMSO-d6), δ, ppm: 7.67 (1H, arom., d, 8.1 Hz), 7.59 (1H, arom., d, 8.2 Hz), 2.44 (3H, CH3, s), 1.57 (6H, (CH3)2, s).

reactant | 3-methyl-2-butanone | 140 mmol, 15 ml | CC(C(C)=O)C | C5H10O
reactant | 2-hydrazino-1,4-benzenedisulfonic acid | 60 mmol, 16.2 g | N(N)C1=C(C=CC(=C1)S(=O)(=O)O)S(=O)(=O)O | C6H8N2O6S2
reactant | potassium acetate | 133 mmol, 13 g | C(C)(=O)[O-].[K+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | Dipotassium 2,3,3-trimethyl-3H-4,7-indoledisulfonate | CC1=NC=2C(=CC=C(C2C1(C)C)S(=O)(=O)[O-])S(=O)(=O)[O-].[K+].[K+] | InChI=1S/C11H13NO6S2.2K/c1-6-11(2,3)9-7(19(13,14)15)4-5-8(10(9)12-6)20(16,17)18;;/h4-5H,1-3H3,(H,13,14,15)(H,16,17,18);;/q;2*+1/p-2
